US04826869
1-Ethyl-2-(3'-ureidobenzyl)pyrrole
1-Ethyl-2-(3'-aminobenzyl)pyrrole 5.6 g (28 mmol) was dissolved in a mixture of 500 ml of methylene chloride and 100 ml methanol; 3.92 g (60 mmol) of sodium cyanate were added to the solution and thereafter, in a dropwise fashion and at room temperature, 4.6 ml (59 mmol) of trifluoroacetic acid in 100 ml of methylene chloride. When the addition was completed, the resulting mixture was stirred for 72 hours, 10 g (90 mmol) of sodium carbonate were added thereto, the mixture stirred for 15 minutes and the solvent evaporated under reduced pressure. The residue was purified by column chromatography on 300 g of silica gel, using methylene chloride-acetone (85:15) as eluant, to produce 4.44 g (65%) of the title compound, 1-ethyl-2-(3'-ureidobenzyl)pyrrole, which was recrystallized from acetone-hexane.

reactant | 1-Ethyl-2-(3'-aminobenzyl)pyrrole | 28 mmol, 5.6 g | C(C)N1C(=CC=C1)CC1=CC(=CC=C1)N | C13H16N2
reactant | sodium cyanate | 60 mmol, 3.92 g | [O-]C#N.[Na+]
reactant | trifluoroacetic acid | 59 mmol, 4.6 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium carbonate | 90 mmol, 10 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
solvent | methanol | 100 ml | CO | CH4O
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 1-Ethyl-2-(3'-ureidobenzyl)pyrrole | 4.44 g, 65% | C(C)N1C(=CC=C1)CC1=CC(=CC=C1)NC(=O)N | C14H17N3O
